US07524951B2
Diisopropylethylamine (3.1 ml) and 3.0 ml of triethylsilylchloride were added in that order to a solution of 4.05 g of 2-bromo-7-(pyridin-3-yl)hydroxymethylimidazo[5,1-b]thiazole in 30 ml of dimethylformamide, and the mixture was stirred at room temperature for one hr. The reaction mixture was diluted with ethyl acetate, and the diluted reaction mixture was washed with water, a 5% aqueous sodium bicarbonate solution, and a 20% aqueous sodium chloride solution in that order and was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue was purified by column chromatography on silica gel (2 to 5% methanol/methylene chloride) to give 5.14 g of 2-bromo-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole.

reactant | Diisopropylethylamine | 3.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triethylsilylchloride | 3.0 ml | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | 2-bromo-7-(pyridin-3-yl)hydroxymethylimidazo[5,1-b]thiazole | 4.05 g | BrC1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO | C11H8BrN3OS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-7-(pyridin-3-yl)triethylsilyloxymethylimidazo[5,1-b]thiazole | 5.14 g | BrC1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)CO[Si](CC)(CC)CC | C17H22BrN3OSSi
